US07470664B2
Trifluoromethanesulfonic anhydride (1.76 g, 6.24 mmol) was added to a stirred, 0° C. mixture of 1-tert-butyl 2-methyl (2S,4R)-4-{[(8-hydroxy-3,4-dihydroisoquinolin-2(1H)-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate (1.81 g, 4.30 mmol) and Et3N (1.31 g, 12.90 mmol) in DCM (20 mL) and stirred for 18 h. The resulting mixture was poured into saturated aqueous NaHCO3 and extracted into dichloromethane. The organic layer was washed with 10% citric acid solution, dried over Na2SO4 and concentrated to red oil. The oil was purified by column chromatography on silica gel (gradient elution, 10 to 70% EtOAc in hexanes) to give a yellow oil, 1-tert-butyl 2-methyl (2S,4R)-4-({[8-{[(trifluoro methyl)sulfonyl]oxy}-3,4-dihydroisoquinolin-2(1H)-yl]carbonyl}oxy)pyrrolidine-1,2-dicarboxylate (1.65 g, 69.4% yield). LRMS (ESI) m/z 453.2 [((M-Boc)+H)+; calcd for C17H20F3N2O7S: 453.4].

reactant | Trifluoromethanesulfonic anhydride | 6.24 mmol, 1.76 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-tert-butyl 2-methyl (2S,4R)-4-{[(8-hydroxy-3,4-dihydroisoquinolin-2(1H)-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate | 4.30 mmol, 1.81 g | OC=1C=CC=C2CCN(CC12)C(=O)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C21H28N2O7
reactant | Et3N | 12.90 mmol, 1.31 g | CCN(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-butyl 2-methyl (2S,4R)-4-({[8-{[(trifluoro methyl)sulfonyl]oxy}-3,4-dihydroisoquinolin-2(1H)-yl]carbonyl}oxy)pyrrolidine-1,2-dicarboxylate | 1.65 g, 69.4% yield | FC(S(=O)(=O)OC=1C=CC=C2CCN(CC12)C(=O)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC)(F)F | C22H27F3N2O9S
